Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.27195201883
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.06521736737
[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16],1.96128973399
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8][H:9].[O:1]=[C:2],0.48259056867
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1],2.80506046138
[H:7].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.81006524833
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.64605559345
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],4.15133678809
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-5.07682992676
[H:1][C:2]#[C:3][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.37895776008
[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.4904088413300003
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11],-1.67543515887
[H:1][C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[C:5][H:6].[H:1][C:2][O:3][C:4][C:7]([H:8])=[C:9][H:10],7.39616747578
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],6.98262000523
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.71919466809
[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-7.438860761880001
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.98392677564
[C:1]#[C:2][H:3].[C:4]([H:5])(=[C:6]=[O:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[O:7])[O:8][H:9],-1.5250794266499998
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])[H:10],5.08980305987
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.10912530616
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-3.39554783027
[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([C:4]([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.69267079635
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.4140070499
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.88381896809
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.46217606762
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.56921588663
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.91601698915
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.17535468877
[H:12].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.84956027835
